************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: ADD2
* View Name:     schematic
* Netlisted on:  Mar  6 19:37:57 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 B net015 GND net4 VDD / NAND
XI17 GND A net015 VDD / INVERTER
XI8 GND B net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B Cin Cout GND S VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O S:O
XI3 net14 Cin GND S VDD / XOR
XI2 A B GND net14 VDD / XOR
XI6 net14 Cin GND net16 VDD / NAND
XI5 net16 net15 GND Cout VDD / NAND
XI4 A B GND net15 VDD / NAND
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM3 Output B GND GND NMOS_VTG W=720.0n L=50n m=1
MM0 Output A GND GND NMOS_VTG W=720.0n L=50n m=1
MM2 net14 B VDD VDD PMOS_VTG W=1.56u L=50n m=1
MM1 Output A net14 VDD PMOS_VTG W=1.56u L=50n m=1
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    ADD2
* View Name:    schematic
************************************************************************

.SUBCKT ADD2 A2 B0 B1 B2 B2N C1 C2 S0 X2
*.PININFO A2:I B0:I B1:I B2:I B2N:I C1:I S0:I C2:O X2:O
XI0 net24 A2 C1 C2 gnd! X2 vdd! / FA
XI1 B2 net22 gnd! net24 S0 vdd! / MUX
XI2 net21 B2N gnd! net22 vdd! / XOR
XI3 B0 B1 gnd! net21 vdd! / NOR
.ENDS

