************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: ADD3
* View Name:     schematic
* Netlisted on:  Mar  6 15:13:48 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 B net015 GND net4 VDD / NAND
XI17 GND A net015 VDD / INVERTER
XI8 GND B net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM3 Output B GND GND NMOS_VTG W=720.0n L=50n m=1
MM0 Output A GND GND NMOS_VTG W=720.0n L=50n m=1
MM2 net14 B VDD VDD PMOS_VTG W=1.56u L=50n m=1
MM1 Output A net14 VDD PMOS_VTG W=1.56u L=50n m=1
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    ADD3
* View Name:    schematic
************************************************************************

.SUBCKT ADD3 A3 B0 B1 B2 B3 B3N C2 S0 X3
*.PININFO A3:I B0:I B1:I B2:I B3:I B3N:I C2:I S0:I X3:O
XI4 B3N net22 gnd! net30 vdd! / XOR
XI2 A3 net25 gnd! net28 vdd! / XOR
XI0 C2 net28 gnd! X3 vdd! / XOR
XI3 B3 net30 gnd! net25 S0 vdd! / MUX
XI7 B1 B0 gnd! net29 vdd! / NOR
XI5 B2 net20 gnd! net22 vdd! / NOR
XI6 gnd! net29 net20 vdd! / INVERTER
.ENDS

