************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: ADDER
* View Name:     schematic
* Netlisted on:  Mar  8 14:13:39 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 B net015 GND net4 VDD / NAND
XI17 GND A net015 VDD / INVERTER
XI8 GND B net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM3 Output B GND GND NMOS_VTG W=720.0n L=50n m=1
MM0 Output A GND GND NMOS_VTG W=720.0n L=50n m=1
MM2 net14 B VDD VDD PMOS_VTG W=1.56u L=50n m=1
MM1 Output A net14 VDD PMOS_VTG W=1.56u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B Cin Cout GND S VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O S:O
XI3 net14 Cin GND S VDD / XOR
XI2 A B GND net14 VDD / XOR
XI6 net14 Cin GND net16 VDD / NAND
XI5 net16 net15 GND Cout VDD / NAND
XI4 A B GND net15 VDD / NAND
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    ADD1
* View Name:    schematic
************************************************************************

.SUBCKT ADD1 A0N A1 B0 B0N B1 C1 GND S0 VDD X1
*.PININFO A0N:I A1:I B0:I B0N:I B1:I GND:I S0:I VDD:I C1:O X1:O
XI0 A0N B0N GND net18 VDD / NOR
XI1 B1 net15 GND net17 S0 VDD / MUX
XI2 net17 A1 net18 C1 GND X1 VDD / FA
XI3 B1 B0 GND net15 VDD / XOR
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    ADD2
* View Name:    schematic
************************************************************************

.SUBCKT ADD2 A2 B0 B1 B2 B2N C1 C2 GND S0 VDD X2
*.PININFO A2:I B0:I B1:I B2:I B2N:I C1:I GND:I S0:I VDD:I C2:O X2:O
XI0 net24 A2 C1 C2 GND X2 VDD / FA
XI1 B2 net22 GND net24 S0 VDD / MUX
XI2 net21 B2N GND net22 VDD / XOR
XI3 B0 B1 GND net21 VDD / NOR
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    ADD3
* View Name:    schematic
************************************************************************

.SUBCKT ADD3 A3 B0 B1 B2 B3 B3N C2 GND S0 VDD X3
*.PININFO A3:I B0:I B1:I B2:I B3:I B3N:I C2:I GND:I S0:I VDD:I X3:O
XI4 B3N net22 GND net30 VDD / XOR
XI2 A3 net25 GND net28 VDD / XOR
XI0 C2 net28 GND X3 VDD / XOR
XI3 B3 net30 GND net25 S0 VDD / MUX
XI7 B1 B0 GND net29 VDD / NOR
XI5 B2 net20 GND net22 VDD / NOR
XI6 GND net29 net20 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    ADDER
* View Name:    schematic
************************************************************************

.SUBCKT ADDER A0 A0N A1 A2 A3 B0 B0N B1 B2 B2N B3 B3N S0 X0 X1 X2 X3
*.PININFO A0:I A0N:I A1:I A2:I A3:I B0:I B0N:I B1:I B2:I B2N:I B3:I B3N:I S0:I 
*.PININFO X0:O X1:O X2:O X3:O
XI0 A0 B0 gnd! X0 vdd! / XOR
XI1 A0N A1 B0 B0N B1 net40 gnd! S0 vdd! X1 / ADD1
XI2 A2 B0 B1 B2 B2N net40 net41 gnd! S0 vdd! X2 / ADD2
XI3 A3 B0 B1 B2 B3 B3N net41 gnd! S0 vdd! X3 / ADD3
.ENDS

